US05721347
A suspension of 3.06 g. (0.01 mole) of ethyl-5-(ρ-chlorobenzoyl)-1-methylpyrrole-2-acetate in 25 ml. of 0.5N sodium hydroxide is refluxed for 30 minutes. About two-thirds of this solution is cooled, washed with ether, and then acidified with dilute hydrochloric acid. The resulting solid precipitate is collected by filtration, dried and recrystallized from ethanol-water to give the product, 5-(ρ-chlorobenzoyl)-1-methylpyrrole-2-acetic acid; M.P. 189°-191° C. Upon recrystallization from ethanol-water, the melting point is 188°-190° C. The other one-third of the solution is cooled in an ice-bath whereupon the yellow sodium salt of the acid is precipitated and collected by filtration.

reactant | ethyl-5-(ρ-chlorobenzoyl)-1-methylpyrrole-2-acetate | 0.01 mole | C(C)OC(CC=1N(C(=CC1)C(C1=CC=C(C=C1)Cl)=O)C)=O | C16H16ClNO3
reactant | sodium hydroxide | 0.5N | [OH-].[Na+]
product | 5-(ρ-chlorobenzoyl)-1-methylpyrrole-2-acetic acid | ClC1=CC=C(C(=O)C2=CC=C(N2C)CC(=O)O)C=C1 | C14H12ClNO3
